US04487779
1-(4-hydroxy-2,6-dimethylphenyl)-3-amidinourea hydrochloride
A mixture of 1-(4-benzyloxy-2,6-dimethylphenyl)-3-amidinourea hydrochloride (7.0 g), methanolic HCl (50 ml), 5% Pd/C (1.0 g) and 150 ml of absolute ethanol are shaken under an atmosphere of H2 (50 psi) until the uptake of hydrogen ceases. The mixture is filtered through a pad of Celite and the pad washed well with methanol. The filtrate is concentrated under vacuo and the residue crystallized from methanol/acetonitrile to give, after filtering and vacuum drying, 4.7 grams of an off-white solid, M.P. 204°-206° C. Recrystallization from methanol/acetonitrile gave, after filtering and vacuum drying, 2.3 grams, M.P. 208°-210° C. of the hydrochloride salt.

reactant | 1-(4-benzyloxy-2,6-dimethylphenyl)-3-amidinourea hydrochloride | 7.0 g | Cl.C(C1=CC=CC=C1)OC1=CC(=C(C(=C1)C)NC(=O)NC(N)=N)C
reactant | HCl | 50 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 1.0 g | [Pd] | Pd
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 1-(4-hydroxy-2,6-dimethylphenyl)-3-amidinourea hydrochloride | Cl.OC1=CC(=C(C(=C1)C)NC(=O)NC(N)=N)C | InChI=1S/C10H14N4O2.ClH/c1-5-3-7(15)4-6(2)8(5)13-10(16)14-9(11)12;/h3-4,15H,1-2H3,(H5,11,12,13,14,16);1H
